US07329656B2
Benzyl chloroformate (95%, 4.52 mL, 30.1 mmol) was added dropwise to a stirred mixture of tert-butyl 4-(3-amino-6-methylphenyl)piperidinecarboxylate (6.99 g, 24.1 mmol) and K2CO3 (3.66 g, 26.4 mmol) in tetrahydrofuran (350 mL) and stirred under nitrogen for 18 h. CH2Cl2 was added to the reaction mixture, washed with NaHCO3 solution (saturated), followed by water, then dried over Na2SO4 and concentrated in vacuo to give an oil. Purification by flash column chromatography (eluent: cyclohexane:EtOAc (87:13)) gave tert-butyl 4-{2-methyl-5-[(phenylmethoxy)carbonylamino]phenyl}piperidinecarboxylate (7.90 g, 77.1% yield) as a white foam. ESMS m/e: 425.0 (M+H)+.

reactant | Benzyl chloroformate | 30.1 mmol, 4.52 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | tert-butyl 4-(3-amino-6-methylphenyl)piperidinecarboxylate | 24.1 mmol, 6.99 g | NC=1C=C(C(=CC1)C)C1CCN(CC1)C(=O)OC(C)(C)C | C17H26N2O2
reactant | K2CO3 | 26.4 mmol, 3.66 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-{2-methyl-5-[(phenylmethoxy)carbonylamino]phenyl}piperidinecarboxylate | 7.90 g, 77.1% yield | CC1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C25H32N2O4
